2137-12-04 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2137-12-3**] 08:30 AM
 INVASIVE VENTILATION - START [**2137-12-3**] 09:00 AM
 PICC LINE - START [**2137-12-3**] 10:02 AM
 PICC LINE - STOP [**2137-12-3**] 04:25 PM
 ARTERIAL LINE - START [**2137-12-4**] 12:00 AM
 FEVER - 207.7
C - [**2137-12-3**] 04:00 PM
   - Decided to hold off on heparin gtt for anticoagulation given
   therapeutic INR, will need SC heparin or heparin gtt tomorrow
   - Restarted outpatient dronedarone
   - Started tamiflu and sent flu swab then d/c'd once negative
   - Decided to pull PICC, sent tip for culture however was short line so
   getting OSH records on if it was trimmed first.  Looked at CT from
   prior and looks like we got it all.
   - Surgery recs: Leave tube in place
   - Neuro recs: EEG neg for seizure.  Gave extra dose of Dilantin,
   recheck level in am
   - went on and off pressors for drop in BP, went onto AC.  Gave 3 more L
   IVF (now total 10L) for HRs in 120s (decreased to 90s)
   - IP did u/s of pleural effusion- stated couldnt drain and would need
   IR under CT if we really wanted it.  Since on and off pressors decided
   still too unstable to leave for it
   -guiaic positive brown stools overnight
   -hematuria overnight: approx 30 cc/hr UOP
   -started oxycodone standing prn at 3am, had received two doses with
   good effect
   -had multiple reevals of arm and was unwrapped at 3am for patient
   comfort
   -changed to AC then back to PS this am
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   1000 mL NS 4. 1000 mL LR 5. 1000 mL NS 6. 1000 mL NS 7. 1000 mL NS 8.
   Acetaminophen
   9. Albuterol Inhaler 10. Aspirin 11. Bisacodyl 12. CefePIME 13.
   CefePIME 14. Chlorhexidine Gluconate 0.12% Oral Rinse
   15. Docusate Sodium (Liquid) 16. Dronedarone 17. Famotidine 18. Heparin
   Flush (10 units/ml) 19. Ipratropium Bromide MDI
   20. Levofloxacin 21. LeVETiracetam 22. Lorazepam 23. OxycoDONE
   (Immediate Release) 24. OxycoDONE (Immediate Release)
   25. PHENObarbital 26. Phenytoin (Suspension) 27. Phenytoin (Suspension)
   28. Senna 29. Simvastatin
   30. Sodium Chloride 0.9% Flush 31. Sodium Chloride 0.9% Flush 32.
   Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pain in right arm improved unwrapped
   Flowsheet Data as of  [**2137-12-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 97.6
C (207.7
   Tcurrent: 36.1
C (96.9
   HR: 77 (68 - 127) bpm
   BP: 103/45(55) {81/37(49) - 175/90(234)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 69 Inch
             Total In:
                                                                  9,676 mL
                                                                    386 mL
   PO:
             TF:
             73 mL
   IVF:
                                                                  5,056 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    265 mL
   Urine:
                                                                    240 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  8,846 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (391 - 828) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/37/157/20/1
   Ve: 8.9 L/min
   PaO2 / FiO2: 393
   Physical Examination
   GEN: occassional coughing and requiring suction
   HEENT: PERRL EOEMI
   CV: RRR nl s1/s2 no murmurs
   Pulm: CTA b/l
   Abd: +BS, soft, NT ND
   Ext: large hematoma dorsum right forearm, b/l UE 1+ edema, 2+ pulses,
   intact sensation, no LE edema
   Neuro: alert
   Labs / Radiology
   183 K/uL
   8.8 g/dL
   83 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   27.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
   WBC
   9.1
   6.1
   Hct
   28.3
   27.1
   Plt
   223
   183
   Cr
   1.4
   1.1
   TropT
   0.11
   TCO2
   26
   Glucose
   96
   83
   Other labs: PT / PTT / INR:25.5/29.4/2.5, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Imaging: CT chest/abd/pelvis
   1. No evidence of pulmonary embolism.
   2. Post-surgical changes of the aorta and extensive aortic dissection,
   as
   described above, and overall minimally changed.
   3. Large left pleural effusion with associated collapse of the left
   lower
   lobe. The lungs also reveal scattered consolidations as described above
   and
   poorly marginated nodular type opacities which are new and short
   interval and likely also infectious.
   4. Suggestion of hypervolemia with intralobular septal thickening in
   the
   lungs as well as periportal edema.
   5. Diverticulosis.
   6. Hepatic hyperdensity in the right lobe as above. A similar
   hyperdensity
   was seen in [**2136-8-3**]. Considerations include a hemangioma, or
   possible AV-malformation (?previous biopsy site). This could be assesed
   further with ultrasound.
   CXR [**12-4**]: volume overload versus consolidation worse from yesterday
   Microbiology: blood ctx [**12-3**] pending
   urine [**12-3**] pending
   sputum [**12-3**] inadequate
   RVA [**12-3**] negative, culture pending
   cdiff [**12-3**] negative
   bile [**12-3**] pending
   PICC [**12-3**] pending
   GNR blood from OSH
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis.
   # Septic shock:
   Possible sources of infection include pneumonia, persistent bacteremia
   with seeding of his endovascular grafts, or cholecystitis.  Initially
   concerned  that persistent left effusion may be parapneumonic or
   possibly empyema.  Would also consider C Diff given recent antibiotics
   and large BM last night, though this is less likely especially given
   negative test.  Also has an indwelling Foley, so is at risk for UTI as
   well though UA not impressive.  LFTs normal apart from alk phos, so
   cholecystitis appears less likely.
   Not currently needing IVF or pressor support.  With GNR from OSH most
   likely [**2-4**] gut versus urine.
   - will contact ID MD (and possible consult)given concern for
   endovascular infection
   - Vanc/Cefepime/Levo for nosocomial infection, day 1: [**12-3**].  Holding
   off on further coverage with Flagyl given no growth from OSH at this
   point.
   - f/u culture urine, blood, sputum, and gall bladder drainage
   - resend cdiff
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above.  Wean off PS today as tolerated as on
   trache mask at facility.
   - speech consult
   - Continue combivent
   - respiratory alkalosis likely due to tachypnea, will follow ABGs
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension
   - appreciate neurology input, ask if needs to be on continuous EEG
   - monitor neuro exam
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -ask [**Doctor First Name 458**] when tube to be removed.
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - appreciate CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # Guaiac positive stool:
   - active type and screen
   - monitor serial Hct
   - ranitidine
   - PICC, CVL, PIV
   # Elevated troponin and EKG changes:
   Suspect patient was somewhat ischemic in setting of hypotension and
   tachycardia as troponins have not changed and Ces have not gone up.
   - follow EKG this am.
   - continue ASA
   # Acute renal failure: now improving so llikely due to hypotension.
   -urology consult to replace given presense of sepsis, longstanding
   foley, BPH, and hematuria
   - follow urine output closely
   - renally dose meds prn
   # h/o diastolic heart failure:
   - consider restarting home lasix this pm.
   # Atrial Fibrillation and UE DVTs:
   - holding anticoagulation as INR still therapeutic
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - hold metoprolol given recent hypotension
   # Infiltrated IV site:  Pt. could only tolerate wrap and elevation for
 of the night
   -heating compresses, elevate above heart
   Monitor right arm.  Appreciate plastics recs, ask them to come by and
   look given large hematoma.
   # Anemia:  current hct 27.1 recent baseline 27-28
   Note that patient required multiple transfusions during recent hospital
   stay and he has guaiac positive stool as well as recent hematuria.
   - monitor stool output
   - recheck in pm
   - active T&S
   # Hematuria and BPH:  was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.
   - hold flomax given hypotension
   - continue Foley
   # Hyperlipidemia:  continue statin
   FEN:  NPO for now, IV fluids as above, replete lytes PRN (was receiving
   Nutren 2.0 at 50cc/hr by GJ tube prior to admission)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-12-4**] 01:03 AM 20 mL/hour
   Glycemic Control:
   Lines:  plan for replacement of PICC- possibly on right
   Multi Lumen - [**2137-12-3**] 08:30 AM
   20 Gauge - [**2137-12-3**] 08:30 AM
   Arterial Line - [**2137-12-4**] 12:00 AM
   Prophylaxis:
   DVT: still therapeutic on coumadin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) **] [**Name (NI) 2149**] (HCP paperwork in chart),
   cell [**Telephone/Fax (1) 10974**] or [**Telephone/Fax (1) 10975**]; [**Hospital 12**] Rehab contact:  [**Telephone/Fax (1) 1959**].
   Code status: full
   Disposition: ICU for now

2137-12-04 10:35:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2137-12-3**] 08:30 AM
 INVASIVE VENTILATION - START [**2137-12-3**] 09:00 AM
 PICC LINE - START [**2137-12-3**] 10:02 AM
 PICC LINE - STOP [**2137-12-3**] 04:25 PM
 ARTERIAL LINE - START [**2137-12-4**] 12:00 AM
 FEVER - 207.7
C - [**2137-12-3**] 04:00 PM
   -Flu swab negative
   -PICC line D/C'd and was shortened catheter and will verify entire
   catheter removed
   -EEG without seizure activity
   -Pressors required across the night--with 3 liters given overnight
   patient with HR decrease to 90 and pressors weaned to off
   -Ultrasound of pleural effusion attempted and uable to be tappped
   -Hematuria noted overnight
   -Patient with persistent discomfort in right upper extremity
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2137-12-4**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 97.6
C (97.6
   Tcurrent: 37
C (98.6
   HR: 75 (68 - 127) bpm
   BP: 119/50(73) {81/37(49) - 175/90(234)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 69 Inch
             Total In:
                                                                  9,676 mL
                                                                    522 mL
   PO:
             TF:
             142 mL
   IVF:
                                                                  5,056 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    355 mL
   Urine:
                                                                    240 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                  8,846 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 637 (391 - 828) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/37/157/20/1
   Ve: 9.8 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Trach tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   183 K/uL
   83 mg/dL
   1.1 mg/dL
   20 mEq/L
   3.6 mEq/L
   23 mg/dL
   109 mEq/L
   142 mEq/L
   27.1 %
   6.1 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
   WBC
   9.1
   6.1
   Hct
   28.3
   27.1
   Plt
   223
   183
   Cr
   1.4
   1.1
   TropT
   0.11
   TCO2
   26
   Glucose
   96
   83
   Other labs: PT / PTT / INR:25.5/29.4/2.5, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR-Substantial increase in left sided effusion--persistent
   collapse
   CT-tree and [**Male First Name (un) 667**] opacities in Right lung and small left sided effusion
   with LLL colllapse
   Microbiology: BC-21/1-Pending
   Sputum-Inadequate
   Respiratory Viral-negative
   [**Hospital1 723**]-Blood Cultures with GNR's
   Assessment and Plan
    76 yo male admitted with significant fevers and hypotension concerning
   for sepsis requiring pressors and return to ventilator support.  He has
   had good response to antibiotics and IVF given but definative source
   remains to be defined.
   1)Respiratory Failure-Patient with excellent tolerance of PSV support
   at this time.  He does have much improved mental status this morning
   and easy capacity to tolerate minimal ventilator support settings.
   -Move to SBT and will trial with PMV if continued stability seen
   -Maintain PSV today
   2)Sepsis-We have discussed broad differential for sources.  At this
   time we have gram negative rods in blood cultures as initial pathogen.
   We have urine culture pending at this time, we have drainage from
   biliary system pending, we have CT scan without focal intra-abdominal
   infection.  Pulmonary vs. biliary source vs. Urine appear to be
   likely.  We do have significant concern for seeding of graft in the
   setting of positive blood cultures.
   -Vanco/Levoflox/Cefepime
   -Will have to follow up sputum/biliary and urine sources for
   culture
main information will have to come from rehab
   -Will have to discuss with ID team plans around consideration of
   further testing and/or imaging with TEE for possible involvement of
   graft sites if persistent bactermia seen and to consider time course of
   antibiotics
   -Did not have capacity for testing of pleural fluid based upon imaging
   yesterday and will have to re-consider tap if clinical progress is
   limited
   -PICC line D/C
   3)Altered Mental Status-EEG negative much improved following
   improvement in blood pressure control
   -Phenobarb/Keppra to continue
   -Follow exam
   -Will look to return to trach mask trial today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-12-4**] 01:03 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   20 Gauge - [**2137-12-3**] 08:30 AM
   Arterial Line - [**2137-12-4**] 12:00 AM
   Prophylaxis:
   DVT: INR=2.5
will continue with systemic anticoagulation
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition :ICU
   Total time spent: 45

2137-12-05 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Blood Cx from rehab is processed at [**Hospital3 2129**] [**Telephone/Fax (1) 11001**].  GNR
   that is non-lactose fermenter.  Should have species and [**Last Name (un) **] tomorrow.
   - ID recs: Hold off on PICC until blood cx clear, likely sources of
   infection PNA or line, send repeat sputum cx, get sputum cx data from
   [**Hospital 12**] rehab.  Non lactose fermenters would be pseudomonas,
   acinetobacter, stenotrophomonas, or others.  So would change
   levofloxacin to cipro.  Continue vanc/cefepime.  If deteriorates, give
   meropenem.
   - Gave Lasix 40mg IV x 1 (takes 40mg po bid at home)
   - Neuro recs: Reloaded phenytoin in IV form (300mg) today, plan to
   check level 4 hours after dose.  Since <15, gave 100mg q8h IV.
   - Can't give phenytoin through PICC so may have access issues if he
   needs IV pheno in the future
   - Ordered for phenytoin, phenobarb and keppra level in am
   - Gave nystatin for ?thrush
   - Decreased pressure support (from 13/5 to [**10-7**]), tidal volumes went
   from 550-600 on 13/5 to about 450-500 on [**10-7**] so held off on further
   wewaning.  Repeat ABG 7.39 37 107 23 -1
   - Plastics signed off, thought hand looked ok w/o compartment syndrome
   - No CT [**Doctor First Name 458**] or gen [**Doctor First Name 458**] recs left
   - Gave 0.5mg Ativan as recorded in OMR for sleep
   -foley changed by us!
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Ciprofloxacin - [**2137-12-4**] 10:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-4**] 04:15 PM
   Other medications:
   Acetaminophen 4. Albuterol Inhaler 5. Aspirin 6. Bisacodyl 7. CefePIME
   8. Chlorhexidine Gluconate 0.12% Oral Rinse
   9. Ciprofloxacin 10. Docusate Sodium (Liquid) 11. Dronedarone 12.
   Famotidine 13. Furosemide 14. Heparin Flush (10 units/ml)
   15. 16. Ipratropium Bromide MDI 17. LeVETiracetam 18. Lorazepam 19.
   Magnesium Sulfate 20. Metoprolol Tartrate
   21. Nystatin Oral Suspension 22. OxycoDONE (Immediate Release) 23.
   PHENObarbital 24. Phenytoin 25. Phenytoin
   26. Potassium Chloride 27. Senna 28. Simvastatin 29. Sodium Chloride
   0.9% Flush 30. Sodium Chloride 0.9% Flush
   31. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt. states no pain
   Flowsheet Data as of  [**2137-12-5**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 74 (60 - 89) bpm
   BP: 141/87(97) {104/44(64) - 174/87(108)} mmHg
   RR: 37 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 69 Inch
                  Total In:
                                                                  1,501 mL
                                                                    292 mL
   PO:
                  TF:
                                                                    551 mL
                                                                    202 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,635 mL
                                                                    520 mL
   Urine:
                                                                  2,635 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   70 mL
   Balance:
                                                                 -1,134 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (462 - 637) mL (300s-low 400s)
   PS : 10 cmH2O
   RR (Spontaneous): 24 (30s)
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Agitated
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/35/111/22/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Gen: NAD
   HEENT: no apparent thrush
   CV: RRR, nl s1/s2 no murg
   Pulm: CTA b/l from and
   Abd: +BS, soft ntnd
   Ext: severe ecchymosis right arm, NT, 2+ pulse, good sensation and
   motor
   Labs / Radiology
   181 K/uL
   8.3 g/dL
   105 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   25.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
   WBC
   9.1
   6.1
   4.5
   Hct
   28.3
   27.1
   25.7
   Plt
   223
   183
   181
   Cr
   1.4
   1.1
   0.9
   TropT
   0.11
   TCO2
   26
   23
   25
   Glucose
   96
   83
   105
   Other labs: PT / PTT / INR:21.1/27.9/2.0, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology: blood 12/1, [**12-4**] pending
   sputum [**12-3**] >25 PMNs and >10 epithelial cells/100X field
   urine neg
   bile [**12-3**] bile NGTD
   catheter [**12-3**] NGTD
   cdiff [**12-3**] neg
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis.
   # Septic shock:
   Possible sources of infection include pneumonia, persistent bacteremia
   with seeding of his endovascular grafts, or cholecystitis.  Initially
   concerned  that persistent left effusion may be parapneumonic or
   possibly empyema.  Would also consider C Diff given recent antibiotics,
   though this is less likely especially given negative test.  Also has an
   indwelling Foley, so is at risk for UTI as well though UA not
   impressive.  LFTs normal apart from alk phos, so cholecystitis appears
   less likely.
   Not currently needing IVF or pressor support.  With GNR from OSH most
   likely [**2-4**] gut versus urine, or sepsis due to pna or line.
   - per ID, now on [**Doctor Last Name **]/Cef day 1: [**12-3**] and added Cipro [**12-4**].  If
   decompensates, Meropenem appropriate.
   - f/u culture urine, blood, sputum, and gall bladder drainage
   -resend sputum and  resend cdiff
   -f/u ctx from OSH and see if can narrow antibiotics
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trache mask at facility.
   Likely rate limiting factor now is pulmonary edema from volume overload
   from fluid ressusitation.
   -speech consult
   - Continue combivent
   - increase PEEP to 18 to help increase TV and decrease RR
   - lasix IV X1
   -try to wean PS later today if diureses well
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension
   - appreciate neurology input
   - levels low, ask neuro for help readjusting meds.
   # Anemia:  current hct 25.7: Note that patient required multiple
   transfusions during recent hospital stay and he has guaiac positive
   stool as well as recent hematuria.
   - monitor stool output
   - recheck in pm, transfuse for <25.0
   - active T&S
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -ask [**Doctor First Name 458**] when tube to be removed.
    # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # Guaiac positive stool:
   - active type and screen
   - monitor serial Hct
   - ranitidine
   - PICC, CVL, PIV
   # Elevated troponin and EKG changes: Suspect patient was somewhat
   ischemic in setting of hypotension and tachycardia as troponins have
   not changed and Ces have not gone up.
   - continue ASA
   # Acute renal failure: now improving so llikely due to hypotension.
   - follow urine output closely
   - renally dose meds prn
   # h/o diastolic heart failure:
   - 40mg IV lasix X1 now, pm lytes, patient will need to have home lasix
   restarted soon
   # Atrial Fibrillation and UE DVTs:  INR now 2.0, restarted home
   metoprolol last night
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - restart coumadin at home dose
   - heparin gtt to bridge
   # Infiltrated IV site:  plastics said no C.S.
   -heating compresses, elevate above heart
   # Hematuria and BPH:  was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.
   - restart flomax this pm if BPs tolerate
   - continue Foley
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-4**] 04:28 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   20 Gauge - [**2137-12-3**] 08:30 AM
   Arterial Line - [**2137-12-4**] 12:00 AM
   Prophylaxis:
   DVT: place back on coumadin
   Stress ulcer:  increased famotidine to adjust for renal function
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:

2137-12-05 12:06:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Patient able to tolerate diuresis with lasix and remains off pressors
   -PSV decrease to [**10-7**] with mild decrease in Vt 7.39/37/107
   -Foley changed without event
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-5**] 08:00 AM
   Ciprofloxacin - [**2137-12-5**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-4**] 04:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2137-12-5**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 60 (60 - 89) bpm
   BP: 166/75(107) {104/44(64) - 176/87(117)} mmHg
   RR: 22 (15 - 37) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  1,501 mL
                                                                  1,028 mL
   PO:
             TF:
                                                                    551 mL
                                                                    348 mL
   IVF:
                                                                    500 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,635 mL
                                                                    620 mL
   Urine:
                                                                  2,635 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   70 mL
   Balance:
                                                                 -1,134 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (367 - 602) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Agitated
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/35/111/22/0
   Ve: 14.3 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Head, Ears, Nose, Throat: Esop
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, G/J Tube in place
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   181 K/uL
   105 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   18 mg/dL
   107 mEq/L
   139 mEq/L
   25.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
   WBC
   9.1
   6.1
   4.5
   Hct
   28.3
   27.1
   25.7
   Plt
   223
   183
   181
   Cr
   1.4
   1.1
   0.9
   TropT
   0.11
   TCO2
   26
   23
   25
   Glucose
   96
   83
   105
   Other labs: PT / PTT / INR:21.1/27.9/2.0, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-Trach in place, Pacer in place, large left sided effusion
   persists.
   Microbiology: Urine-neg
   PICC-Neg
   C. Diff-neg
   Biliary Draina[**MD Number(4) 11004**]
   Assessment and Plan
   76 yo male with admission from rehab with sepsis and gram negative
   bacteremia.  He has had persistent requirement for significant pressure
   support for ventilation at this time.  This may be related to some
   component of volume overload in the setting of treatment for sepsis.
   What is encouraging is that we have seen no evidence of persistent or
   recurrent insult with clearance of blood cultures at this time.
   1)Sepsis-
   -Vanco/Cefepime/Cipro to continue for GNR process
   -Have been able to wean pressors to off
   -Will move to negative fluid balance at this time given stability of
   blood pressure
   -Would hope to replace PICC catheter  when able given femoral catheter
   -No fevers in past 24 hours
will have to follow pleural fluid magnitude
   and clinical progress over time.
   2)Respiratory Failure-Patient with persistent tachypnea and low tidal
   volumes--this is concerning for persistent restriction both from chest
   wall and weakness
   -Will continue with PSV
consider increase in PSV today to 15 and
   evaluate for optimization of tidal volume
   -Diruesis today
   3)Seizure-None this admission
   -Keppra
   4)DVT-
   -Return to anticoagulation today given INR decrease to 2.0 and
   extensive clot.
   -Will have to follow stool given OB positive status
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-4**] 04:28 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   20 Gauge - [**2137-12-3**] 08:30 AM
   Arterial Line - [**2137-12-4**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Son updated in full this morning on process
   and near term goals and plans discussed in detail
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2137-12-06 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -put on heparin gtt and coumadin
   -back on terazosin
   -lasix 40 IV x2
   -blood ctx at St.Es: serratia maracenes, Se to bactrim, aztreonam,
   cefotaxime, cefotetan, ceftaz, ceftriaxone, cefepime, cipro, gent,
   imipenem, levo, ticar, tobra, amikacin, zosyn
   -PS decreased to 10 because pt was alarming for apnea and RR and tidal
   volumes improved (we had planned to go up on pressure support, but
   ended up going down)
   Per ID - needs vanc for total of 6 weeks.  can do cipro IV 400 q 12 for
   at least 2 weeks. cefepime stopped.
   -Can place picc when cx neg 72 hrs (tomorrow)
   -Neuro recs: give extra dose dilatin 300 IV and check level 4 hrs
   after: 5.1.  Changed to PO and increased to 200 q8h
   -checking dilantin and phenobarb troughs in AM
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-5**] 08:00 AM
   Cefipime - [**2137-12-5**] 12:30 PM
   Ciprofloxacin - [**2137-12-5**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Dilantin - [**2137-12-5**] 05:20 PM
   Furosemide (Lasix) - [**2137-12-5**] 06:53 PM
   Other medications:
   Acetaminophen 4. Albuterol Inhaler 5. Aspirin 6. Bisacodyl 7.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Ciprofloxacin 9. Docusate Sodium (Liquid) 10. Dronedarone 11.
   Famotidine 12. Furosemide 13. Furosemide
   14. Heparin Flush (10 units/ml) 15. Heparin 16. 17. Ipratropium Bromide
   MDI 18. LeVETiracetam 19. Lorazepam
   20. Magnesium Sulfate 21. Metoprolol Tartrate 22. Nystatin Oral
   Suspension 23. OxycoDONE (Immediate Release)
   24. PHENObarbital 25. Phenytoin 26. Phenytoin (Suspension) 27.
   Potassium Chloride (Powder) 28. Potassium Chloride
   29. Potassium Chloride (Powder) 30. Potassium Chloride 31. Senna 32.
   Simvastatin 33. Sodium Chloride 0.9% Flush
   34. Sodium Chloride 0.9% Flush 35. Terazosin 36. Vancomycin 37.
   Warfarin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-6**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.5
C (95.9
   HR: 60 (60 - 73) bpm
   BP: 132/55(81) {107/48(66) - 177/81(117)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,215 mL
                                                                    898 mL
   PO:
             TF:
                                                                    870 mL
                                                                    519 mL
   IVF:
                                                                  1,015 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                    800 mL
   Urine:
                                                                  3,415 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
                                                                     70 mL
   Balance:
                                                                 -1,270 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (358 - 643) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 9.3 L/min
   Physical Examination
   Gen: NAD, overall more drowsy vs yesterday
   CV: rrr nl s1/s2 no m
   Pulm: CTA b/l except crackles at bases
   Abd: +BS, soft NTND
   Ext: hematoma of right arm unchanged, 2+ pulse, nl sensation and motor
   Labs / Radiology
   175 K/uL
   8.0 g/dL
   108 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   15 mg/dL
   106 mEq/L
   137 mEq/L
   23.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
   WBC
   9.1
   6.1
   4.5
   4.0
   Hct
   28.3
   27.1
   25.7
   24.9
   23.1
   Plt
   223
   183
   181
   175
   Cr
   1.4
   1.1
   0.9
   1.0
   1.0
   TropT
   0.11
   TCO2
   26
   23
   25
   Glucose
   96
   83
   105
   118
   108
   Other labs: PT / PTT / INR:21.4/118.4/2.0, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Microbiology: blood 12/1, [**12-4**] pending
   sputum [**12-3**] >25 PMNs and >10 epithelial cells/100X field
   urine neg
   bile [**12-3**] bile NGTD
   catheter [**12-3**] NGTD
   cdiff [**12-3**] neg
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis.
   # Septic shock/ serratia:
   Possible sources of infection include pneumonia, persistent bacteremia
   with seeding of his endovascular grafts, or cholecystitis.  Initially
   concerned  that persistent left effusion may be parapneumonic or
   possibly empyema.  Would also consider C Diff given recent antibiotics,
   though this is less likely especially given negative test.  Also has an
   indwelling Foley, so is at risk for UTI as well though UA not
   impressive.  LFTs normal apart from alk phos, so cholecystitis appears
   less likely.
    Not currently needing IVF or pressor support.  With GNR (serratia
   maracenes)  from OSH most likely [**2-4**] gut versus urine, or sepsis due to
   pna or line.
   - per ID, now on [**Doctor Last Name **]/Cef day 1: [**12-3**] and added Cipro [**12-4**].  If
   decompensates, Meropenem appropriate.
   - f/u culture urine, blood, sputum, and gall bladder drainage
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trache mask at facility.
   Likely rate limiting factor now is pulmonary edema from volume overload
   from fluid resuscitation.
   -this am was on [**5-7**] and put on trache mask but tiered out.  Returned to
   PS and will reattempt tomorrow.
   -speech consult
   - Continue combivent
   - lasix IV X1
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension
   - appreciate neurology input
   - levels low, ask neuro for help readjusting meds.
   # Anemia:  current hct decreasing: Note that patient required multiple
   transfusions during recent hospital stay and he has guaiac positive
   stool as well as recent hematuria.
   - monitor stool output
   - recheck in pm, transfuse for <21.0
   - active T&S
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -ask [**Doctor First Name 458**] when tube to be removed.
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # Guaiac positive stool:
   - active type and screen
   - monitor Hct in pm
   - ranitidine
   - PICC, CVL, PIV
   # Elevated troponin and EKG changes: Suspect patient was somewhat
   ischemic in setting of hypotension and tachycardia as troponins have
   not changed and Ces have not gone up.
   - continue ASA
   # Acute renal failure: now improving so llikely due to hypotension.
   - follow urine output closely
   - renally dose meds (vancomycin)
   # h/o diastolic heart failure:
   - 40mg IV lasix X1 now, pm lytes, patient will need to have home lasix
   restarted soon
   # Atrial Fibrillation and UE DVTs:  INR now 2.0, restarted home
   metoprolol last night
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - restarted coumadin at home dose, INR still therapeutic but may still
   drop since restarted yesterday
   - heparin gtt to bridge
   # Infiltrated IV site:  plastics said no C.S.
   -heating compresses, elevate above heart
   # Hematuria and BPH:  was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.
   - cont flomax
   - continue Foley
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-4**] 04:28 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Put in for IR guided PICC today
   Multi Lumen - [**2137-12-3**] 08:30 AM
   20 Gauge - [**2137-12-3**] 08:30 AM
   Arterial Line - [**2137-12-4**] 12:00 AM: will d/c
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: icu

2137-12-06 11:05:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Heparin drip and
   -Serratia seen on blood culture final results--Vanco/Cefepime/Cipro had
   been in place from outset and Vanco/Cipro to continue
   -Patient able to be weaned to [**5-7**] this morning
   -Patient able to tolerate substantial negative fluid balance
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Cefipime - [**2137-12-5**] 12:30 PM
   Vancomycin - [**2137-12-6**] 08:00 AM
   Ciprofloxacin - [**2137-12-6**] 09:59 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Dilantin - [**2137-12-5**] 05:20 PM
   Furosemide (Lasix) - [**2137-12-5**] 06:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-6**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 63) bpm
   BP: 132/59(86) {107/48(66) - 177/75(107)} mmHg
   RR: 24 (16 - 37) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,215 mL
                                                                  1,721 mL
   PO:
             TF:
                                                                    870 mL
                                                                    645 mL
   IVF:
                                                                  1,015 mL
                                                                    826 mL
   Blood products:
   Total out:
                                                                  3,485 mL
                                                                    920 mL
   Urine:
                                                                  3,415 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
                                                                     70 mL
   Balance:
                                                                 -1,270 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 542 (358 - 643) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 14.2 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Trachesostomy Tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Biliary Drain in
   place
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   175 K/uL
   108 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.9 mEq/L
   15 mg/dL
   106 mEq/L
   137 mEq/L
   23.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
   WBC
   9.1
   6.1
   4.5
   4.0
   Hct
   28.3
   27.1
   25.7
   24.9
   23.1
   Plt
   223
   183
   181
   175
   Cr
   1.4
   1.1
   0.9
   1.0
   1.0
   TropT
   0.11
   TCO2
   26
   23
   25
   Glucose
   96
   83
   105
   118
   108
   Other labs: PT / PTT / INR:21.4/118.4/2.0, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR-Persistence of left sided effusion which may have
   diminished slightly
   Microbiology: No cultures from [**Hospital1 54**] show substantial organisms
   persisting
   Assessment and Plan
   76 yo male with complex recent medical history notable for aortic
   replacement and with prolonged hospital course compliacted by recurrent
   infection, respiratory failure and substantial peripheral muscle
   weakness now re-admitted with sepsis and source would appear to be
   related to Gram Negative infection seen in previous pulmonary samples
   suggesting possible pulmonary source of recurrent gram negative rod
   bacterial infection.  He has shown substantial improvement over the
   past 24 hours consistent with resolving sepsis.
   1) SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-_Secondary to above
   -Vanco to continue for 6 weeks
   -Cipro for two weeks for Serratia
   -Remains off pressors
   -Will move to diuresis today at 1-2 liters per day as possible
   2)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-Substantial improvement in
   compliance and also in patient mental status and drive to breath
   today.  We will move to have patient trial on PMV and trach mask today.
   -PSV at 10-15/5 for full support
   -Will trial on PMV for 1-2 hours today
   -Will continue diuresis
   3)ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Much improved through to today
   4)CHOLECYSTITIS, CALCULOUS
   -Will maintain biliary drain and follow up cultures
   -Continue with drainage at this time
   -Enxymes reassuring
   5)H/O SEIZURE, WITH STATUS EPILEPTICUS
   -Keppra
   -Will continue to titrate medications with neurology input
   6)H/O AORTIC DISSECTION
   -Maintain adequate BP control
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-4**] 04:28 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   20 Gauge - [**2137-12-3**] 08:30 AM
   Arterial Line - [**2137-12-4**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition :ICU
with continued improvement we will look to move to
   rehab placement once we have stability assured
   Total time spent: 40

2137-12-07 07:15:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - tired out on trial of trach mask, placed back on PS
   - could not get PICC or peripheral IV so kept femoral line
   - d/c'd A-line
   - need to ask ERCP when biliary stent coming out
   - redosed lasix in pm then again at 0300 on [**12-7**] given increased thin
   respiratory secretions
 ARTERIAL LINE - STOP [**2137-12-6**] 02:30 PM
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Cefipime - [**2137-12-5**] 12:30 PM
   Ciprofloxacin - [**2137-12-6**] 09:59 AM
   Vancomycin - [**2137-12-6**] 07:42 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-6**] 09:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-7**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 60 (60 - 61) bpm
   BP: 116/58(71) {83/33(55) - 130/66(78)} mmHg
   RR: 30 (13 - 37) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,453 mL
                                                                    172 mL
   PO:
             TF:
                                                                  1,535 mL
   IVF:
                                                                  1,353 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  4,025 mL
                                                                  1,985 mL
   Urine:
                                                                  3,955 mL
                                                                  1,985 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
   Balance:
                                                                   -572 mL
                                                                 -1,813 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 501 (444 - 542) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 15.9 L/min
   Physical Examination
   Gen: NAD, overall more drowsy vs yesterday
   CV: rrr nl s1/s2 no m
   Pulm: CTA b/l except crackles at bases
   Abd: +BS, soft NTND
   Ext: hematoma of right arm unchanged, 2+ pulse, nl sensation and motor
   Labs / Radiology
   210 K/uL
   8.8 g/dL
   110 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   26.6 %
   5.0 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
   WBC
   9.1
   6.1
   4.5
   4.0
   5.0
   Hct
   28.3
   27.1
   25.7
   24.9
   23.1
   25.3
   26.6
   Plt
   223
   183
   181
   175
   210
   Cr
   1.4
   1.1
   0.9
   1.0
   1.0
   0.9
   1.0
   TropT
   0.11
   TCO2
   26
   23
   25
   Glucose
   96
   83
   105
   118
   108
   102
   110
   Other labs: PT / PTT / INR:19.5/66.6/1.8, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Phenobarbitol and phenytoin levels pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis.
   # Septic shock/ serratia:  Possible sources of infection include
   pneumonia, persistent bacteremia with seeding of his endovascular
   grafts, or cholecystitis.  Initially concerned  that persistent left
   effusion may be parapneumonic or possibly empyema.  Would also consider
   C Diff given recent antibiotics, though this is less likely especially
   given negative test.  Also has an indwelling Foley, so is at risk for
   UTI as well though UA not impressive.  LFTs normal apart from alk phos,
   so cholecystitis appears less likely.  Not currently needing IVF or
   pressor support.  With GNR (serratia maracenes) from OSH most likely
   [**2-4**] gut versus urine, or sepsis due to pna or line.
   - per ID, now Vancomycin/Cipro: Day 1 [**12-3**] of Vanc and added Cipro
   [**12-4**].  If decompensates, Meropenem appropriate.
   - f/u culture urine, blood, sputum, and gall bladder drainage
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trach mask at facility.
   Likely rate limiting factor now is pulmonary edema from volume overload
   from fluid resuscitation.
   - this am was on [**5-7**] and put on trach mask but tired out.  Returned to
   PS and will reattempt tomorrow.
   - speech consult
   - Continue combivent
   - Continue gentle diuresis
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension
   - appreciate neurology input
   - levels low, ask neuro for help readjusting meds.
   # Anemia:  current hct decreasing: Note that patient required multiple
   transfusions during recent hospital stay and he has guaiac positive
   stool as well as recent hematuria.
   - monitor stool output
   - recheck in pm, transfuse for <21.0
   - active T&S
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -ask [**Doctor First Name 458**] when tube to be removed.
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # Guaiac positive stool:
   - active type and screen
   - monitor Hct in pm
   - ranitidine
   - PICC, CVL, PIV
   # Elevated troponin and EKG changes: Suspect patient was somewhat
   ischemic in setting of hypotension and tachycardia as troponins have
   not changed and Ces have not gone up.
   - continue ASA
   # Acute renal failure: now improving so llikely due to hypotension.
   - follow urine output closely
   - renally dose meds (vancomycin)
   # h/o diastolic heart failure:
   - 40mg IV lasix X1 now, pm lytes, patient will need to have home lasix
   restarted soon
   # Atrial Fibrillation and UE DVTs:  INR now 2.0, restarted home
   metoprolol last night
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - restarted coumadin at home dose, INR now subtherapeutic
   - heparin gtt to bridge
   # Infiltrated IV site:  plastics said no C.S.
   -heating compresses, elevate above heart
   # Hematuria and BPH:  was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.
   - cont flomax
   - continue Foley
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-4**] 04:28 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Put in for IR guided PICC when able
   Multi Lumen - [**2137-12-3**] 08:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: icu

2137-12-07 12:51:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo male with complex recent medical history notable for aortic
   replacement and with prolonged hospital course complicated by recurrent
   infection, respiratory failure and substantial peripheral muscle
   weakness now re-admitted with sepsis and serratia growing in blood cx
   from [**12-3**].
   Major issues:
          Improving sepsis with neg fluid balance over past 2 days.
          Vent dependent on PSV but not tolerating SBT probably due to
   weakness.
          Altered mental status.
          Left pleural effusion, pulm edema.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2137-12-6**] 02:30 PM
   Patient unable to provide history: trached
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Cefipime - [**2137-12-5**] 12:30 PM
   Vancomycin - [**2137-12-7**] 08:00 AM
   Ciprofloxacin - [**2137-12-7**] 10:27 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-6**] 09:34 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-7**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 60 (60 - 61) bpm
   BP: 106/58(66) {83/33(55) - 132/66(78)} mmHg
   RR: 21 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 100.6 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,453 mL
                                                                    920 mL
   PO:
             TF:
                                                                  1,535 mL
   IVF:
                                                                  1,353 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  4,025 mL
                                                                  2,465 mL
   Urine:
                                                                  3,955 mL
                                                                  2,465 mL
   NG:
   Stool:
   Drains:
                                                                     70 mL
   Balance:
                                                                   -572 mL
                                                                 -1,545 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (396 - 579) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 13.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: distant HS, RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: mild)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: generalized edema, ~[**1-4**]+
   Skin:  Warm, right distal UE hyperpigmented wound in site of IV
   infiltration with contrast, improved acc to residents
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed, appropriate
   responses, mouthing words
   Labs / Radiology
   8.8 g/dL
   210 K/uL
   110 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.6 mEq/L
   15 mg/dL
   101 mEq/L
   136 mEq/L
   26.6 %
   5.0 K/uL
        [image002.jpg]
                             [**2137-12-3**]  10:40 AM
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
   WBC
   9.1
   6.1
   4.5
   4.0
   5.0
   Hct
   28.3
   27.1
   25.7
   24.9
   23.1
   25.3
   26.6
   Plt
   223
   183
   181
   175
   210
   Cr
   1.4
   1.1
   0.9
   1.0
   1.0
   0.9
   1.0
   TropT
   0.11
   TCO2
   26
   23
   25
   Glucose
   96
   83
   105
   118
   108
   102
   110
   Other labs: PT / PTT / INR:19.5/66.6/1.8, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Imaging: large left pleural effusion, improved pulm edema bilat
   Microbiology: serratia
   Assessment and Plan
   substantial improvement over the past 24 hours consistent with
   resolving sepsis.
   1) SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)- much improving
   -Vanco to continue for 6 weeks
   -Cipro for two weeks for Serratia
   -Remains off pressors
   -Will move to diuresis today at 1-2 liters per day as possible
   2)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-Substantial improvement in
   compliance and also in mental status. Trach mask today.
   -PSV at 5/5
   -Will trial on trach mask, PMV if tol TM well
   -Will continue diuresis
   3)ALTERED MENTAL STATUS (NOT DELIRIUM) improving
   4)CHOLECYSTITIS, CALCULOUS
   -Will maintain biliary drain and follow up cultures
   -Continue with drainage at this time
   -Enzymes reassuring
   5)H/O SEIZURE, WITH STATUS EPILEPTICUS
   -Keppra
   -Discuss with neuro- would like to minimize sedating meds if possible
   6)H/O AORTIC DISSECTION
   -Maintain adequate BP control
   Other issues per resident note.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2137-12-08 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2137-12-7**] 06:50 PM
   - trach trial done, patient got SOB and placed back on pressure support
   but did much better than yesterday (lasted 2 hours)
   - Getting bladder irrigation due to hematuria, now has 3-way foley
   - gave 40mg IV Lasix during day, then wanted to again at 9pm given
   fluid balance of only -162 but BP was low so held off
   - ordered PT consult
   - ID recs: continue cipro x 3-4 weeks, vanco for 6 weeks (start
   [**11-14**]?), if pleural effusion remains despite diuresis, consider
   thoracentesis to r/o infected collection
   - restarted on home flomax
   - Emailed IR team who placed chole tube to find out when it can come
   out and alerted neurologist Dr. [**Last Name (STitle) **]
   - BPs fell overnight to 90's/50's while sleeping, mentating well,
   asymptomatic
   This AM, pt reports stable pain in Rt arm, no new pain elsewhere.
   States that his breathing is stable this morning.
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Cefipime - [**2137-12-5**] 12:30 PM
   Vancomycin - [**2137-12-7**] 08:00 PM
   Ciprofloxacin - [**2137-12-7**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-7**] 03:30 PM
   Morphine Sulfate - [**2137-12-7**] 06:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-8**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 72 (60 - 82) bpm
   BP: 106/50(63) {80/40
 149/70} mmHg
   RR: 24 (18 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 95.1 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  4,027 mL
                                                                    989 mL
   PO:
             TF:
                                                                  2,187 mL
                                                                    513 mL
   IVF:
                                                                  1,660 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  4,230 mL
                                                                    100 mL
   Urine:
                                                                  4,180 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                   -203 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (396 - 579) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 9.2 L/min
   Physical Examination
   Gen: somnolent but arousable, responding appropriately to questions,
   lying comfortably in bed, NAD
   HEENT: NCAT, PERRL, Tacheostomy tube in place, OP clear
   CV: RRR, S1, S2, no murmur appreciated
   Pulm: Rhonchorus on anterior exam
   Abd: soft, NT, ND, +BS, GJ tube and perc choley in place (dressings
   c/d/i)
   Groin: Rt femoral line in place without erythema or exudates
   Extrem: 1+ edema in upper extremities b/l, Rt arm hematoma ttp, No
   edema in LE.  Feet cold L>R, with palpable DP pulses although R>L.
   Labs / Radiology
   203 K/uL
   8.5 g/dL
   70 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   134 mEq/L
   25.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
                             [**2137-12-8**]  04:40 AM
   WBC
   6.1
   4.5
   4.0
   5.0
   4.7
   Hct
   27.1
   25.7
   24.9
   23.1
   25.3
   26.6
   25.2
   Plt
   183
   181
   175
   210
   203
   Cr
   1.1
   0.9
   1.0
   1.0
   0.9
   1.0
   0.5
   TCO2
   26
   23
   25
   Glucose
   83
   105
   118
   108
   102
   110
   70
   Other labs: PT / PTT / INR:19.2/77.0/1.8, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.2 mg/dL
   [**12-7**] phenobarb 9, dilantin 5.5
   Vanc 32.5 this AM
   B Cx [**12-4**] pend
   UCx [**12-7**] pend
   C diff [**12-7**] neg
   No new imaging
   Assessment and Plan
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   # Septic shock/ serratia: With serratia bacteremia, most likely source
   of sepsis is GI vs urine, although UA on admission was not impressive
   (although was after antibioitics).  LFTs were normal apart from alk
   phos, so cholecystitis less likely.  Could also be due to pneumonia or
   due to PICC line infection (PICC has been removed)
   - per ID, now on Vancomycin/Cipro: Day 1 [**12-3**] of Vanc and added Cipro
   [**12-4**].  If decompensates, Meropenem appropriate.  Plan to continue cipro
   x 3-4 weeks, vanco for 6 weeks (start [**11-14**])
   - will send sputum Cx today (prior Cx
s have been poor samples)
   - f/u culture urine, blood, sputum, and gall bladder drainage
   - Vanc trough elevated this AM, but drawn early; will repeat a PM vanc
   trough
   -will transfuse 1u PRBCs this AM given continued hypotension and anemia
   -gentle IV fluid boluses to mainatain UOP and MAP > 60
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trach mask at facility.
   Barriers to extubation currently include muscle weakness, altered
   mental status and pulmonary edema.
   - Yesterday was on put on trach mask and did well, will try again today
   - Speech consult pending
   - Continue combivent
   - Continue gentle diuresis with Lasix as needed, goal I/O negative ~1L
   - PM I/O check
   .
   # Cold lower extremities, Left > right; Pt does have a hx of venous
   clotting, although currently on heparin and coumadin.
   - LE ultrasound with dopplers to assess venous and arterial patency
   .
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.
   - appreciate neurology input; will stop Phenobarbital today with plan
   to stop keppra next (per neuro recs)
   - continue phenytoin and keppra for now
   .
   # Hematuria and BPH:  Was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.  Continues to have some hematuria, has 3 way foley
   and undergoing bladder irrigation.  Likely due to anticoagulation in
   the setting of foley placements.
   - cont flomax
   - continue Foley with bladder irrigation
   .
   # Anemia:  Hct stable.  Note that patient required multiple
   transfusions during recent hospital stay and he has guaiac positive
   stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   - transfuse 1 u PRBCs today
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -ask IR when tube to be removed.
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # Elevated troponin and EKG changes: Suspect patient was somewhat
   ischemic in setting of hypotension and tachycardia.
   - continue ASA
   # Acute renal failure: Now creatinine stable at 1.0
   - follow urine output
   - renally dose meds (vancomycin)
   # h/o diastolic heart failure:
   - Continue gentle diuresis as above
   # Atrial Fibrillation and UE DVTs:  INR now 1.8, restarted home
   metoprolol.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - restarted coumadin at home dose, INR now subtherapeutic
   - heparin gtt to bridge
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-7**] 12:00 AM 95 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM (likely IR guided picc on Monday)
   Prophylaxis:
   DVT: heparin ggt, coumadin
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**] for now

2137-12-08 11:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo male with complex recent medical history notable for aortic
   replacement and with prolonged hospital course complicated by recurrent
   infection, respiratory failure and substantial peripheral muscle
   weakness now re-admitted with sepsis and serratia growing in blood cx
   from [**12-3**].
   Major issues:
          Improving sepsis with neg fluid balance over past 2 days.
          Vent dependent on PSV but not tolerating SBT probably due to
   weakness.
          Altered mental status.
          Left pleural effusion, pulm edema.
   24 Hour Events:
 URINE CULTURE - At [**2137-12-7**] 06:50 PM
   3-way foley placed, flushed, with removal of clots.
   Tolerated trach mask x 2 hours. Stopped for tachypnea to 40 bpm.
   PS/PEEP [**5-7**] overnight with FiO2 0.4.
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Cefipime - [**2137-12-5**] 12:30 PM
   Vancomycin - [**2137-12-7**] 08:00 PM
   Ciprofloxacin - [**2137-12-8**] 09:20 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-7**] 03:30 PM
   Morphine Sulfate - [**2137-12-7**] 06:50 PM
   Famotidine (Pepcid) - [**2137-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-8**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 62 (60 - 82) bpm
   BP: 85/42(52) {79/36(47) - 161/115(120)} mmHg
   RR: 21 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 95.1 kg (admission): 95.4 kg
   Height: 69 Inch
   CVP: 8 (8 - 9)mmHg
   Total In:
                                                                  4,007 mL
                                                                  2,360 mL
   PO:
   TF:
                                                                  2,281 mL
                                                                    771 mL
   IVF:
                                                                  1,546 mL
                                                                  1,528 mL
   Blood products:
   Total out:
                                                                  4,230 mL
                                                                    500 mL
   Urine:
                                                                  4,180 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                   -223 mL
                                                                  1,860 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (418 - 571) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site clean
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), cold feet, L>R, palpable DP and PT pulses though weaker
   on left
   Respiratory / Chest: (Breath Sounds: Rhonchorous: confused by vent
   tubing), strong cough
   Abdominal: Soft, Non-tender, Bowel sounds present, right fem line
   appears clean, no purulence or erythema
   Extremities: no edema in LE, 1+ UE. Right distal UE with induration,
   hematoma unchanged.
   Musculoskeletal: Muscle wasting
   Skin:  Warm (see ext, pulses), No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful. Extremely weak hand grasp, worse on right., Tone:
   Decreased, somnolent but arousable. Smiled appropriately.
   Labs / Radiology
   8.5 g/dL
   203 K/uL
   70 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   134 mEq/L
   25.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
                             [**2137-12-8**]  04:40 AM
   WBC
   6.1
   4.5
   4.0
   5.0
   4.7
   Hct
   27.1
   25.7
   24.9
   23.1
   25.3
   26.6
   25.2
   Plt
   183
   181
   175
   210
   203
   Cr
   1.1
   0.9
   1.0
   1.0
   0.9
   1.0
   0.5
   TCO2
   26
   23
   25
   Glucose
   83
   105
   118
   108
   102
   110
   70
   Other labs: PT / PTT / INR:19.2/77.0/1.8, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.2 mg/dL
   Microbiology: C Diff Ag yest negative
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   Keppra, phenobarb, dilantin.
   Need to discuss with neuro-- would like to decrease his anticonvulsant
   regiment as he is oversedated.
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-8**] 09:33 AM 95 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin and heparin, for LSC and RIJ
   thrombi)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-12-08 12:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo male with complex recent medical history including [**10-11**] redo
   replacement of ascending aorta and arch with graft, with prolonged
   hospital course complicated by recurrent infection, respiratory
   failure, cholecystitis with perc drain ([**11-16**]), RIJ and LSC thrombi and
   substantial peripheral muscle weakness now re-admitted with sepsis and
   serratia growing in blood cx from [**12-3**] and being treated for h/o coag
   neg staph.
   Major active issues:
          Improving sepsis, mobilizing fluid with neg fluid balance
   over previous 2 days, now not measurable due to bladder irrigation.
          Vent dependent due to weakness
          Altered mental status, improved
          Left pleural effusion, pulm edema
   24 Hour Events:
 URINE CULTURE - At [**2137-12-7**] 06:50 PM
   3-way foley placed, flushed, with removal of clots.
   Tolerated trach mask x 2 hours. Stopped for tachypnea to 40 bpm.
   PS/PEEP [**5-7**] overnight with FiO2 0.4.
   History obtained from Medical records
   Patient unable to provide history: trached, lethargic
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Cefipime - [**2137-12-5**] 12:30 PM
   Vancomycin - [**2137-12-7**] 08:00 PM
   Ciprofloxacin - [**2137-12-8**] 09:20 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-7**] 03:30 PM
   Morphine Sulfate - [**2137-12-7**] 06:50 PM
   Famotidine (Pepcid) - [**2137-12-8**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2137-12-8**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 62 (60 - 82) bpm
   BP: 85/42(52) {79/36(47) - 161/115(120)} mmHg
   RR: 21 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 95.1 kg (admission): 95.4 kg
   Height: 69 Inch
   CVP: 8 (8 - 9)mmHg
   Total In:
                                                                  4,007 mL
                                                                  2,360 mL
   PO:
   TF:
                                                                  2,281 mL
                                                                    771 mL
   IVF:
                                                                  1,546 mL
                                                                  1,528 mL
   Blood products:
   Total out:
                                                                  4,230 mL
                                                                    500 mL
   Urine:
                                                                  4,180 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                   -223 mL
                                                                  1,860 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (418 - 571) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished, somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site clean
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), cold feet, L>R, palpable DP and PT pulses though weaker
   on left
   Respiratory / Chest: (Breath Sounds: Rhonchorous: confused by vent
   tubing), strong cough
   Abdominal: Soft, Non-tender, Bowel sounds present, right fem line
   appears clean, no purulence or erythema
   Extremities: no edema in LE, 1+ UE. Right distal UE with induration,
   hematoma unchanged.
   Musculoskeletal: Muscle wasting
   Skin:  Warm (see ext, pulses), No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful. Extremely weak hand grasp, worse on right., Tone:
   Decreased, somnolent but arousable. Smiled and interacted
   appropriately.
   Labs / Radiology
   8.5 g/dL
   203 K/uL
   70 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   11 mg/dL
   98 mEq/L
   134 mEq/L
   25.2 %
   4.7 K/uL
        [image002.jpg]
                             [**2137-12-3**]  11:30 AM
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
                             [**2137-12-8**]  04:40 AM
   WBC
   6.1
   4.5
   4.0
   5.0
   4.7
   Hct
   27.1
   25.7
   24.9
   23.1
   25.3
   26.6
   25.2
   Plt
   183
   181
   175
   210
   203
   Cr
   1.1
   0.9
   1.0
   1.0
   0.9
   1.0
   0.5
   TCO2
   26
   23
   25
   Glucose
   83
   105
   118
   108
   102
   110
   70
   Other labs: PT / PTT / INR:19.2/77.0/1.8, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:26/29, Alk Phos / T Bili:120/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.2 mg/dL
   Microbiology: C Diff Ag yest negative
   Assessment and Plan
   76 yo man s/p aortic dissection repair redo with graft, complicated by
   septic shock, resp failure with profound weakness, prolonged vent
   dependence.
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)- much improving, mobilizing
   fluids, remains off pressors
   -Vanco to continue for 6 weeks
   -Cipro for two weeks for Serratia
   -Will move to diuresis today at 1-2 liters per day as possible
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])-Substantial improvement in
   compliance, stamina with trach mask and also in mental status.
   Trach mask again today.
   -Will trial on trach mask, PMV if tol TM well
   -continue diuresis
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Carries diagnosis of anoxic brain injury, though [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
t know if this
   is accurate. Now seems sedated from anticonvulsants, and more sedated
   with cerebral hypoperfusion while hypotensive.
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
   Keppra, phenobarb, dilantin.
   Discuss with neuro
it is not clear pt actually has an ongoing seizure
   disorder. He clearly does not interact as if he has anoxic brain
   injury. I would start slowly stopping his antiepileptics (starting with
   phenobarb, which is already low dose, then keppra which is highly
   sedating) and would EEG once off.
 Cold left foot.
   USG vascular flow.
 .H/O AORTIC DISSECTION
   Fluid bolus and transfuse 1U PRBC for hypotension, anemia.
 CHOLECYSTITIS, CALCULOUS
   -Continue with drainage at this time
   -Recheck LFTs
 ATRIAL FIBRILLATION (AFIB)
   A paced and on dronetarone.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-8**] 09:33 AM 95 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin and heparin, for LSC and RIJ
   thrombi)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-12-09 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2137-12-8**] 01:00 PM
 BLOOD CULTURED - At [**2137-12-8**] 02:29 PM
 SPUTUM CULTURE - At [**2137-12-8**] 02:29 PM
   -bolused 1 L in AM for hypotension
   -trach trial done, only lasted 30 min (worse than yesterday)
   -rec'd 1 unit PRBCs
   -feet cold in AM L>R, u/s with dopplers ordered but feet warm by
   evening (no tech to perform vascular study to look at arteries per
   radiology resident).  feet warm in pm, no study yet so cancelled
   dopplers
   -per neuro recs, stopped phenobarb today (thought that it might be
   causing somnolence).  plan to stop keppra in several days (will leave
   recs)
   -PM Vanc trough: 6.8 (am dose held), will get another trough in AM
   -increased clear secretions at 2300, felt likely pulm edema, given 40IV
   lasix
   -trazodone overnight for sleep (pt with sleep/wake cycles reversed per
   nursing)
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-8**] 08:05 PM
   Ciprofloxacin - [**2137-12-8**] 10:00 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-12-8**] 08:00 AM
   Furosemide (Lasix) - [**2137-12-9**] 12:08 AM
   Other medications:
   500 mL NS 4. 500 mL NS 5. Acetaminophen 6. Albuterol Inhaler 7. Aspirin
   8. Bisacodyl
   9. Chlorhexidine Gluconate 0.12% Oral Rinse 10. Ciprofloxacin 11.
   Docusate Sodium (Liquid) 12. Dronedarone
   13. Famotidine 14. Furosemide 15. Heparin Flush (10 units/ml) 16.
   Heparin 17. 18. Ipratropium Bromide MDI
   19. LeVETiracetam 20. Lidocaine Jelly 2% (Urojet) 21. Lorazepam 22.
   Metoprolol Tartrate 23. Nystatin Oral Suspension
   24. OxycoDONE (Immediate Release) 25. Phenytoin (Suspension) 26.
   Phenazopyridine 27. Potassium Chloride
   28. Senna 29. Simvastatin 30. Sodium Chloride 0.9% Flush 31. Sodium
   Chloride 0.9% Flush 32. Vancomycin
   33. Warfarin 34. traZODONE
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 78 (60 - 86) bpm
   BP: 124/88(96) {79/37(47) - 137/91(99)} mmHg
   RR: 28 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 96 kg (admission): 95.4 kg
   Height: 69 Inch
    CVP: 11 (8 - 11)mmHg
   Total In:
                                                                  4,629 mL
                                                                    888 mL
   PO:
   TF:
                                                                  1,781 mL
                                                                    714 mL
   IVF:
                                                                  2,348 mL
                                                                    175 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,500 mL
                                                                  2,200 mL
   Urine:
                                                                  2,500 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,129 mL
                                                                 -1,312 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (425 - 560) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 15 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   9.6 g/dL
   116 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   17 mg/dL
   102 mEq/L
   138 mEq/L
   28.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2137-12-4**]  04:48 AM
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
                             [**2137-12-8**]  04:40 AM
                             [**2137-12-9**]  04:45 AM
   WBC
   6.1
   4.5
   4.0
   5.0
   4.7
   6.3
   Hct
   27.1
   25.7
   24.9
   23.1
   25.3
   26.6
   25.2
   28.2
   Plt
   183
   181
   175
   [**Telephone/Fax (3) 11051**]
   Cr
   1.1
   0.9
   1.0
   1.0
   0.9
   1.0
   0.5
   1.3
   TCO2
   23
   25
   Glucose
   83
   105
   118
   108
   102
   110
   70
   116
   Other labs: PT / PTT / INR:18.8/53.1/1.7, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:13/14, Alk Phos / T Bili:109/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.0 mg/dL
   Microbiology: blood
   pending [**12-8**], [**12-4**], [**12-3**]
   urine [**12-7**] pending
   sputum [**12-8**] [**10-27**] PMNs and >10 epithelial cells/100X field.
   [**12-7**] cdiff negative
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   # Septic shock/ serratia: With serratia bacteremia, most likely source
   of sepsis is GI vs urine, although UA on admission was not impressive
   (although was after antibioitics).  LFTs were normal apart from alk
   phos, so cholecystitis less likely.  Could also be due to pneumonia or
   due to PICC line infection (PICC has been removed)
   - per ID, now on Vancomycin/Cipro: Day 1 [**12-3**] of Vanc and added Cipro
   [**12-4**].  If decompensates, Meropenem appropriate.  Plan to continue cipro
   x 3-4 weeks, vanco for 6 weeks (start [**11-14**])
   -hold next Vanc dose and check level
   - will send sputum Cx today (prior Cx
s have been poor samples)
   - f/u culture urine, blood
   - high vanc trough, hold next dose, repeat trough
   -will transfuse 1u PRBCs this AM given continued hypotension and anemia
   -gentle IV fluid boluses to mainatain UOP and MAP > 60
   -PICC today
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trach mask at facility.
   Barriers to extubation currently include muscle weakness, altered
   mental status and pulmonary edema.
   - Yesterday was on put on trach mask and did well, will try again today
   - Speech consult pending
   - Continue combivent
   - Continue gentle diuresis with Lasix as needed, goal I/O negative ~1L
   - PM I/O check
   .
   # Cold lower extremities, Left > right; Pt does have a hx of venous
   clotting, although currently on heparin and coumadin.
   - LE ultrasound with dopplers to assess venous and arterial patency
   .
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.
   - appreciate neurology input; stopped Phenobarbital [**12-8**] with plan to
   stop keppra next (per neuro recs)
   .
   # Hematuria and BPH:  Was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.  Continues to have some hematuria, has 3 way foley
   and undergoing bladder irrigation.  Likely due to anticoagulation in
   the setting of foley placements.
   - cont flomax
   - continue Foley with bladder irrigation
   -consult urology today
   .
   # Anemia:  Hct stable, had 1U yesterday of prbc.  Note that patient
   required multiple transfusions during recent hospital stay and he has
   guaiac positive stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -Per IR:  Pt needs cholangiogram to confirm that the cystic duct is
   patent and then has the tube capped.  At six weeks post insertion the
   patient typically has an elective cholecystectomy. The attending
   surgeon who was consulted at the time of the tube being inserted(Dr
   [**Last Name (STitle) **] should have the final say on future management however and I
   would suggest reconsulting her
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # Elevated troponin and EKG changes: Suspect patient was somewhat
   ischemic in setting of hypotension and tachycardia.
   - continue ASA
   # Acute renal failure: increased to 1.3
   - follow urine output
   - renally dose meds (vancomycin)
   # h/o diastolic heart failure:
   - Continue gentle diuresis as above
   # Atrial Fibrillation and UE DVTs:  INR now 1.7, restarted home
   metoprolol.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - restarted coumadin at home dose, INR now subtherapeutic
   - increase coumadin dose to 7.5
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-8**] 09:33 AM 100 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-12-10 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -neuro says if seizes give ativan and restart phenobarbital
   -put in for phenytoin level in the am
   -trache trial for 35 min then became dyspneic, back on [**5-7**]
   -rec
d lasix 40 IV x2 and repeat CXR showed improving volume status
   -PEEP had to be increased last pm b/c RR up in 40-50s and SaO2 in high
   80s; changed from [**5-7**] to [**10-10**]
   -Plan for PICC in AM
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-8**] 08:05 PM
   Ciprofloxacin - [**2137-12-9**] 09:30 PM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2137-12-9**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-10**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
F) at 4 AM
   Tcurrent: 38.1
C (100.6
   HR: 65 (60 - 85) bpm
   BP: 110/58(71) {102/68- 176/87(131)} mmHg
   RR: 18 (17 - 37) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 95.8 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,094 mL
                                                                    988 mL
   PO:
             TF:
                                                                  1,795 mL
                                                                    604 mL
   IVF:
                                                                  1,129 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                    602 mL
   Urine:
                                                                  3,815 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   22 mL
   Balance:
                                                                   -721 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (318 - 575) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 162
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 12 L/min
   Physical Examination
   Gen: awake and alert, responding appropriately to questions, lying
   comfortably in bed, NAD
   HEENT: NCAT, PERRL, Tacheostomy tube in place, OP clear
   CV: RRR, S1, S2, no murmur appreciated
   Pulm: Rhonchorus on anterior exam, crackles on left
   Abd: soft, NT, ND, +BS, GJ tube and perc choley in place (dressings
   c/d/i)
   Groin: Rt femoral line in place without erythema or exudates
   Extrem: 1+ edema in upper extremities b/l, Rt arm hematoma ttp, No
   edema in LE, 1+ DP pulses
   Labs / Radiology
   274 K/uL
   9.0 g/dL
   163 mg/dL
   1.6 mg/dL
   29 mEq/L
   5.1 mEq/L
   21 mg/dL
   103mEq/L
   139 mEq/L
   27.5 %
   6.5 K/uL
        [image002.jpg] (repeated chem 7, intial K 5.7)
                             [**2137-12-4**]  10:12 AM
                             [**2137-12-5**]  03:56 AM
                             [**2137-12-5**]  04:11 AM
                             [**2137-12-5**]  03:54 PM
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
                             [**2137-12-8**]  04:40 AM
                             [**2137-12-9**]  04:45 AM
                             [**2137-12-9**]  02:31 PM
   WBC
   4.5
   4.0
   5.0
   4.7
   6.3
   Hct
   25.7
   24.9
   23.1
   25.3
   26.6
   25.2
   28.2
   Plt
   181
   175
   210
   203
   274
   Cr
   0.9
   1.0
   1.0
   0.9
   1.0
   0.5
   1.3
   1.4
   TCO2
   23
   25
   Glucose
   105
   118
   108
   102
   110
   70
   116
   107
   Other labs: PT / PTT / INR:78.7/2.2, CK / CKMB / Troponin-T:56//0.11,
   ALT / AST:13/14, Alk Phos / T Bili:109/0.4, Differential-Neuts:69.6 %,
   Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.2 g/dL, Ca++:10.1 mg/dL, Mg++:2.7 mg/dL, PO4:3.9 mg/dL
   Phenytoin level: 1.5 (low)
   Vanc trough: 23.0
   BCx [**12-8**] and [**12-10**] pend
   U Cx [**12-10**] pend
   CXR last night showed mild improvement in pulm edema
   No CXR ordered for this AM
   Assessment and Plan
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   .
   .
   # Sepsis: Found to have serratia bacteremia on OSH culture. Possible
   sources include GU or GI. LFTs were normal apart from alk phos, so
   cholecystitis less likely.  Could also be due to pneumonia or due to
   PICC line infection (PICC has been removed).
   - per ID: Vancomycin/Cipro: Day 1 [**12-3**] of Vanc and added Cipro [**12-4**].
   If decompensates, Meropenem appropriate.  Plan to continue cipro x [**3-6**]
   weeks, vanco for 6 weeks (start [**11-14**])
   - f/u culture urine, blood cultures
   -try to avoid IVF as now volume overloaded
   -PICC today in IR
   -send new blood, urine, and sputum cx given new fever this AM
   .
   # Fever: Most likely source is femoral CVL.  Plan to pull line and
   reassess.  Other possible sources of infection include pulmonary
   effusion, urinary (pt with recent bladder irrigation and GU
   manipulation).  No leukocytosis currently.
   - sent blood, urine, sputum Cx
   - consider CT-guided thoracentesis if fevers continue after femoral
   line pulled or patient decompensates
   .
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trach mask at facility.
   Barriers to extubation currently include muscle weakness, altered
   mental status and pulmonary edema.
   - retry trache mask later today
   - Speech consult pending
   - Continue combivent
   - Lasix drip today for goal of 1 L neg today; BP cannot tolerate bolus
   dosing for diuresis
   - PM I/O check
   .
   # Acute renal failure: increased to 1.6 today, possibly related to
   recent dye load on [**12-3**], although this would be a late presentation.
   Possibly also component of ATN from episodes of hypotension.
   - follow urine output
   - spin urine sediment
   - renally dose meds (vancomycin)
   .
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.
   - appreciate neurology input; stopped Phenobarbital [**12-8**] with plan to
   cont Keppra and Dilantin.
   - Dilantin level today is low; possibly dosing altered from stopping
   phenobarbital?  Will touch base with neurology and repeat level
   tomorrow.
   .
   # Hypercalcemia: New finding today, corrected Ca [**38**].9.  Will monitor
   for now and consider PTH tomorrow if persists.
   # Hematuria and BPH:  Was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.  Continued to have some hematuria during this
   hospitalization, has 3 way foley and undergoing bladder irrigation.
   Likely due to anticoagulation in the setting of foley placements.  Now
   resolved.  If recurrs, might consider urology consult
   - continue Foley, no bladder irrigation currently needed
   .
   # Atrial Fibrillation and UE DVTs:  INR now 2.2, restarted home
   metoprolol.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - coumadin dose at 7.5
   - stop heparin gtt when therapeutic x 48 hrs
   # Anemia:  Hct stable, had 1U yesterday of prbc.  Note that patient
   required multiple transfusions during recent hospital stay and he has
   guaiac positive stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   .
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -Per IR:  Pt needs cholangiogram to confirm that the cystic duct is
   patent and then has the tube capped.  At six weeks post insertion the
   patient typically has an elective cholecystectomy. The attending
   surgeon who was consulted at the time of the tube being inserted(Dr
   [**Last Name (STitle) **] should have the final say on future management
   - reconsult Dr. [**Last Name (STitle) **]
   .
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   .
   # h/o diastolic heart failure:
   - Continue gentle diuresis as above
   .
   .
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   .
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-9**] 11:54 PM 100 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-12-3**] 08:30 AM
   PICC to be placed in IR this AM
   Prophylaxis:
   DVT: heparin gtt, coumadin (increased from 5 to 7.5)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: [**Hospital Unit Name 44**]

2137-12-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2137-12-10**] 04:37 PM
 MULTI LUMEN - STOP [**2137-12-10**] 06:38 PM
   - Got midline instead of PICC line b/c couldn't get through his clot on
   either side
   - Started on a lasix gtt at 4:30pm @ 5mg/hr, increased throughout day
   but ended up at about 7mg/hr due to some relative hypotension
   - Urine lytes sent, FE urea 40 but wasn't oliguric so hard to
   interpret, had positive rare eos
   - Creatinine down to 1.5 in pm
   - Could consider tunneled catheter in this patient because needs access
   for 3.5 weeks or so
   - femoral line pulled
   - Had 4+ GNR on sputum gram stain
   - Neuro did not leave note
   - [**Doctor Last Name **] emailed back regarding chole tube.  Said:
   "Typically we do a cholangiogram through the tube to make sure that the
   cystic duct is patent, and if it is then cap the tube.  If the patient
   tolerates that we do an elective cholecystectomy at 6 weeks after
   placement.  HOWEVER, Mr. [**Known lastname 2149**] is a very, very poor candidate for any
   additional surgical procedure at this time or in the near future.
   If you really want the tube out at 6 weeks from insertion you can get a
   study through it to see if the cystic duct is patent, cap it to see if
   her tolerates the normal flow of bile and then simply take the tube out
   after tolerating having it capped and asymptomatic for 2 or more days.
   Simply keeping the tube in is not a problem, especially as it does let
   us know that his gallbladder is not the source of his sepsis (when he
   comes in the next time
.).  I think that management of the tube depends
   very much on his overall status."
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-8**] 08:05 PM
   Ciprofloxacin - [**2137-12-10**] 10:15 PM
   Infusions:
   Furosemide (Lasix) - 6.5 mg/hour
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
    Acetaminophen 4. Albuterol Inhaler 5. Aspirin 6. Bisacodyl 7.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Ciprofloxacin 9. Docusate Sodium (Liquid) 10. Dronedarone 11.
   Famotidine 12. Furosemide 13. Heparin Flush (10 units/ml)
   14. Heparin 15. Heparin Flush (10 units/ml) 16. 17. Ipratropium Bromide
   MDI 18. LeVETiracetam 19. Lidocaine Jelly 2% (Urojet)
   20. Lorazepam 21. Metoprolol Tartrate 22. Nystatin Oral Suspension 23.
   OxycoDONE (Immediate Release)
   24. Phenytoin 25. Senna 26. Simvastatin 27. Sodium Chloride 0.9% Flush
   28. Sodium Chloride 0.9% Flush
   29. Vancomycin 30. Warfarin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-11**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 63 (60 - 67) bpm
   BP: 118/56(70) {93/43(55) - 146/69(88)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Wgt (current): 99.9 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,767 mL
                                                                    800 mL
   PO:
             TF:
                                                                  2,243 mL
                                                                    602 mL
   IVF:
                                                                    855 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,452 mL
                                                                  1,503 mL
   Urine:
                                                                  2,430 mL
                                                                  1,485 mL
   NG:
   Stool:
   Drains:
                                                                     22 mL
                                                                     18 mL
   Balance:
                                                                  1,315 mL
                                                                   -703 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 408 (387 - 550) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 9.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   300 K/uL
   9.1 g/dL
   111 mg/dL
   1.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   22 mg/dL
   99 mEq/L
   135 mEq/L
   28.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-12-6**]  04:16 AM
                             [**2137-12-6**]  06:32 PM
                             [**2137-12-7**]  05:01 AM
                             [**2137-12-8**]  04:40 AM
                             [**2137-12-9**]  04:45 AM
                             [**2137-12-9**]  02:31 PM
                             [**2137-12-10**]  06:17 AM
                             [**2137-12-10**]  08:45 AM
                             [**2137-12-10**]  03:47 PM
                             [**2137-12-11**]  06:03 AM
   WBC
   4.0
   5.0
   4.7
   6.3
   6.5
   5.7
   Hct
   23.1
   25.3
   26.6
   25.2
   28.2
   27.5
   28.0
   Plt
   175
   210
   203
   274
   267
   300
   Cr
   1.0
   0.9
   1.0
   0.5
   1.3
   1.4
   1.7
   1.6
   1.5
   1.8
   Glucose
   108
   102
   110
   70
   116
   107
   163
   92
   111
   Other labs: PT / PTT / INR:26.1/82.8/2.5, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:13/14, Alk Phos / T Bili:109/0.4,
   Differential-Neuts:69.6 %, Lymph:20.1 %, Mono:6.3 %, Eos:3.7 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL,
   PO4:4.3 mg/dL
   Blood 12/9, 8, 6 pending; [**12-4**] final neg
   Sptum [**12-10**] 4+ GNR, ctx pending
   Fem catheter [**12-10**] pending
   Urine [**12-10**] pending
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   .
   .
   # Sepsis: Found to have serratia bacteremia on OSH culture. Possible
   sources include GU or GI. LFTs were normal apart from alk phos, so
   cholecystitis less likely.  Could also be due to pneumonia or due to
   PICC line infection (PICC has been removed).
   Sputum with GNR, coverered with Cipro.
   - per ID: Vancomycin/Cipro: Day 1 [**12-3**] of Vanc and added Cipro [**12-4**].
   If decompensates, Meropenem appropriate.  Plan to continue cipro x [**3-6**]
   weeks, vanco for 6 weeks (start [**11-14**])
   - f/u culture blood, sputum
   -try to avoid IVF as now volume overloaded
   .
   # Fever: Most likely source is femoral CVL.  Plan to pull line and
   reassess.  Other possible sources of infection include pulmonary
   effusion, urinary (pt with recent bladder irrigation and GU
   manipulation).  No leukocytosis currently.
   - consider CT-guided thoracentesis if fevers continue after femoral
   line pulled or patient decompensates
   .
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP as above. Was on trach mask at facility.
   Barriers to extubation currently include muscle weakness, altered
   mental status and pulmonary edema.  Now on [**5-10**].
   - retry trache mask later today
   - Speech consult pending
   - Continue combivent
   - Lasix drip today for goal of 1 L neg today; BP cannot tolerate bolus
   dosing for diuresis.  Decrease some this am given elevated creatinine
   - PM I/O check
   .
   # Acute renal failure: increased to 1.6 today, possibly related to
   recent dye load on [**12-3**], although this would be a late presentation.
   Possibly also component of ATN from episodes of hypotension.
   - follow urine output
   - spin urine sediment
   - renally dose meds (vancomycin)
   .
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.
   - appreciate neurology input; stopped Phenobarbital [**12-8**] with plan to
   cont Keppra and Dilantin.
   - Dilantin level today is low; possibly dosing altered from stopping
   phenobarbital?  Will touch base with neurology and repeat level
   tomorrow.
   .
   # Hypercalcemia: New finding today, corrected Ca [**38**].9.  Will monitor
   for now and consider PTH tomorrow if persists.
   # Hematuria and BPH:  Was described at rehab [**12-2**], now present.
   Patient was followed by urology during recent hospital stay and was
   started on flomax.  Continued to have some hematuria during this
   hospitalization, has 3 way foley and undergoing bladder irrigation.
   Likely due to anticoagulation in the setting of foley placements.  Now
   resolved.  If recurrs, might consider urology consult
   - continue Foley, no bladder irrigation currently needed
   .
   # Atrial Fibrillation and UE DVTs:  INR now 2.2, restarted home
   metoprolol.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - coumadin dose at 7.5
   - stop heparin gtt when therapeutic x 48 hrs
   # Anemia:  Hct stable, had 1U yesterday of prbc.  Note that patient
   required multiple transfusions during recent hospital stay and he has
   guaiac positive stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   .
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   -Per IR:  Pt needs cholangiogram to confirm that the cystic duct is
   patent and then has the tube capped.  At six weeks post insertion the
   patient typically has an elective cholecystectomy. The attending
   surgeon who was consulted at the time of the tube being inserted(Dr
   [**Last Name (STitle) **] should have the final say on future management
   - reconsult Dr. [**Last Name (STitle) **]
   .
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   .
   # h/o diastolic heart failure:
   - Continue gentle diuresis as above
   .
   .
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   .
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-9**] 11:54 PM 100 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2137-12-10**] 04:37 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2137-12-12 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   confident he is absorbing) and 6 weeks of vanc for CoNS.  Page [**Doctor Last Name 11078**]
   prn with ?s.
   -granular casts in urine suggestive of ATN
   -NIF -29 (normal -90-100, so he has significant weakness)
   -PTH 34 (normal)
   -Sputum shows 4+ GNR; presume this is still his serratia, but if spikes
   again will add cefepime (this came back after ID signed off)
   -Neuro: dilantin corrected needs to be between 6 and 8 corrected for
   albumin.  keep checking daily levels for now to see if going up (at
   rehab can check every few days)(coumadin should make it go up and was
   only started a few days ago). Needs f/u appt with Dr. [**Last Name (STitle) 11079**]
   [**Name (STitle) **] in 3 wks.
   -did better on trach mask (lasted at least an hour), then PS increased
   from 5 to 10 because RR in 40s --> came down to 20s
   -plan to get VDVT in AM.
   -decreased white secretions yetserday
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-11**] 07:52 PM
   Ciprofloxacin - [**2137-12-11**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Acetaminophen 4. Albuterol Inhaler 5. Aspirin 6. Bisacodyl 7.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Ciprofloxacin 9. Docusate Sodium (Liquid) 10. Dronedarone 11.
   Famotidine 12. Furosemide 13. Heparin Flush (10 units/ml)
   14. Heparin 15. Heparin Flush (10 units/ml) 16. 17. Ipratropium Bromide
   MDI 18. LeVETiracetam 19. Lidocaine Jelly 2% (Urojet)
   20. Lorazepam 21. Metoprolol Tartrate 22. Nystatin Oral Suspension 23.
   OxycoDONE (Immediate Release)
   24. Phenytoin 25. Potassium Chloride (Powder) 26. Senna 27. Simvastatin
   28. Sodium Chloride 0.9% Flush
   29. Sodium Chloride 0.9% Flush 30. Vancomycin 31. Warfarin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-12**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (96.9
   HR: 72 (60 - 79) bpm
   BP: 78/38(47) {78/38(47) - 152/97(111)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 99.9 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,683 mL
                                                                    842 mL
   PO:
             TF:
                                                                  1,944 mL
                                                                    625 mL
   IVF:
                                                                  1,375 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  4,098 mL
                                                                  1,285 mL
   Urine:
                                                                  4,080 mL
                                                                  1,285 mL
   NG:
   Stool:
   Drains:
                                                                     18 mL
   Balance:
                                                                   -415 mL
                                                                   -443 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (363 - 670) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.48/42/119/28/7
   NIF: -29 cmH2O
   Ve: 8.9 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   9.7 g/dL
   106 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   24 mg/dL
   97 mEq/L
   135 mEq/L
   29.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-12-8**]  04:40 AM
                             [**2137-12-9**]  04:45 AM
                             [**2137-12-9**]  02:31 PM
                             [**2137-12-10**]  06:17 AM
                             [**2137-12-10**]  08:45 AM
                             [**2137-12-10**]  03:47 PM
                             [**2137-12-11**]  06:03 AM
                             [**2137-12-11**]  04:27 PM
                             [**2137-12-11**]  04:45 PM
                            [**2137-12-12**]  03:58 AM
   WBC
   4.7
   6.3
   6.5
   5.7
   5.7
   7.8
   Hct
   25.2
   28.2
   27.5
   28.0
   28.0
   29.8
   Plt
   [**Telephone/Fax (3) 11080**]00
    300
   317
   Cr
   0.5
   1.3
   1.4
   1.7
   1.6
   1.5
   1.8
   1.5
   TCO2
   32
   Glucose
   70
   116
   107
   163
   92
   111
   106
   Other labs: PT / PTT / INR:31.1/105.6/3.1, Ca++:8.9 mg/dL, Mg++:2.8
   mg/dL, PO4:4.1 mg/dL
   12/9,8,6 blood pending
   [**12-10**] sputum GNR on ctx
   [**12-10**] right fem catheter pending
   [**12-10**] urine neg
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CHOLECYSTITIS, CALCULOUS
 .H/O SEIZURE, WITH STATUS EPILEPTICUS
 .H/O AORTIC DISSECTION
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ANEMIA, CHRONIC
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP with Vanc/Cipro (Vanc D1 [**11-14**], Cipro [**12-4**]).
   Was on trach mask at facility occassionally.  Barriers to extubation
   currently include muscle weakness and pulmonary edema.
   - RSBI, SBT and retry trache mask daily
   - Speech consult pending
   - Continue combivent
   - Lasix drip today for goal of 1 L neg today; BP cannot tolerate bolus
   dosing for diuresis
   - PM I/O check
   # Sepsis: Found to have serratia bacteremia on OSH culture. Possible
   sources include GU or GI. LFTs were normal apart from alk phos, so
   cholecystitis less likely.  Could also be due to pneumonia or due to
   PICC line infection (PICC has been removed).
   Sputum with GNR on [**12-10**].
   - per ID:  If decompensates, Meropenem appropriate.  Plan to continue
   cipro X4 weeks (change to PO when is absorbing), vanco for 6 weeks
   (start [**11-14**])
   - f/u culture blood, sputum
   -try to avoid IVF as now volume overloaded
   # Acute renal failure: decreased .  Likely combination of ATN and
   hypovolemia given small amount of granual casts
   - follow urine output
   -pm lytes
   - renally dose meds (vancomycin)
   - renal consult if no improvement
   # Fever: Currently afebrile Most likely source is femoral CVL.  Pullled
   on [**12-10**].  Other possible sources of infection include pulmonary
   effusion, urinary (pt with recent bladder irrigation and GU
   manipulation).  No leukocytosis currently.
   - consider CT-guided thoracentesis if fevers continue after femoral
   line pulled or patient decompensates
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.  Now improved.
   - appreciate neurology input; stopped Phenobarbital [**12-8**] with plan to
   cont Keppra and Dilantin.
   - dilantin corrected needs to be between 6 and 8 corrected for
   albumin.  keep checking daily levels for now to see if going up (at
   rehab can check every few days)(coumadin should make it go up and was
   only started a few days ago).
   -add dilantin level onto am labs
   # Hypercalcemia: New finding, corrected Ca [**38**].9.   PTH is in Normal
   range of 34.  Differential includes malignancy, renal failure.
   -continue to monitor to see if decreases with improving renal failure
   # Hematuria and BPH:  Was described at rehab [**12-2**]  Patient was
   followed by urology during recent hospital stay and was started on
   flomax.  Continued to have some hematuria during this hospitalization,
   has 3 way foley and undergoing bladder irrigation.  Likely due to
   anticoagulation in the setting of foley placements.  Now resolved.  If
   recurrs, might consider urology consult
   - continue Foley, no bladder irrigation currently needed
   # Atrial Fibrillation and UE DVTs:  INR now 3.1, restarted home
   metoprolol.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - coumadin dose at 7.5, decrease today
s dose to 5mg
   - stop heparin gtt as now therapeutic
   # Anemia:  Hct stable, had 1U during admission of prbc.  Note that
   patient required multiple transfusions during recent hospital stay and
   he has guaiac positive stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   Per Dr. [**Last Name (STitle) **]
the tube in is not a problem, especially as it does
   let us know that his gallbladder is not the source of his sepsis (when
   he comes in the next time
.).  I think that management of the tube
   depends very much on his overall status."
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   .
   # h/o diastolic heart failure:
   - Continue gentle diuresis as above
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-11**] 08:16 AM 100 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2137-12-10**] 04:37 PM
   Prophylaxis:
   DVT: heparin gtt, coumadin
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to rehab

2137-12-13 07:24:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident progress note
   Chief Complaint:
   24 Hour Events:
   - patient anxious during day and evening: responded to ativan and pain
   meds
   - VDVT: 57%
   - decreased warfarin dose due to elevated INR
   - phenytoin level appropriate
   - wife updated
   - complained of foley discomfort
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-12**] 08:00 PM
   Ciprofloxacin - [**2137-12-12**] 10:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-13**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 60 (60 - 85) bpm
   BP: 136/64(82) {71/36(48) - 156/98(103)} mmHg
   RR: 23 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 99.9 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,703 mL
                                                                  1,074 mL
   PO:
             TF:
                                                                  2,308 mL
                                                                    730 mL
   IVF:
                                                                  1,215 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                    775 mL
   Urine:
                                                                  3,900 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (375 - 541) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 12 L/min
   Physical Examination
   Gen: Sleeping but responsive, answers questions appropriately
   CV: RRR without audible MRG
   Pulm: faint rhonchi bilaterally, good air movement
   Abd:: NABS, soft NTND
   Ext: 1+ nonpitting left upper extremity edema, stable from previous,
   right arm with stable swelling of IV infiltration site
   Labs / Radiology
   316 K/uL
   9.6 g/dL
   108 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   28 mg/dL
   94 mEq/L
   134 mEq/L
   28.9 %
   6.0 K/uL
        [image002.jpg]
                             [**2137-12-9**]  02:31 PM
                             [**2137-12-10**]  06:17 AM
                             [**2137-12-10**]  08:45 AM
                             [**2137-12-10**]  03:47 PM
                             [**2137-12-11**]  06:03 AM
                             [**2137-12-11**]  04:27 PM
                             [**2137-12-11**]  04:45 PM
                            [**2137-12-12**]  03:58 AM
                            [**2137-12-12**]  02:43 PM
                            [**2137-12-13**]  04:26 AM
   WBC
   6.5
   5.7
   5.7
   7.8
   6.0
   Hct
   27.5
   28.0
   28.0
   29.8
   28.9
   Plt
   [**Telephone/Fax (3) 11088**]17
   316
   Cr
   1.4
   1.7
   1.6
   1.5
   1.8
   1.5
   1.5
   1.6
   TCO2
   32
   Glucose
   107
   163
   92
   111
   106
   128
   108
   Other labs: PT / PTT / INR:32.6/34.5/3.3, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:13/14, Alk Phos / T Bili:109/0.4,
   Differential-Neuts:58.4 %, Lymph:29.5 %, Mono:7.2 %, Eos:4.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.4 mg/dL
   12/9,8,6 blood pending
   [**12-10**] sputum GNR on ctx
   RESPIRATORY CULTURE (Final [**2137-12-12**]):
      Commensal Respiratory Flora Absent.
      Due to mixed bacterial types ( >= 3 colony types) an abbreviated
      workup will be performed appropriate to the isolates recovered from
      this site.
      GRAM NEGATIVE ROD(S).
         MODERATE GROWTH OF TWO COLONIAL MORPHOLOGIES.
      GRAM NEGATIVE ROD #3.    SPARSE GROWTH.
   [**12-10**] right fem catheter
 no growth
   Vanc 41.2
   Phenytoin 7.6
   Assessment and Plan
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   # Respiratory Failure:  Likely secondary to infectious process.
   Empiric therapy for HAP with Vanc/Cipro (Vanc D1 [**11-14**], Cipro [**12-4**]).
   Was on trach mask at facility occassionally.  Barriers to extubation
   currently include muscle weakness and pulmonary edema.
   - RSBI, SBT and retry trach mask daily
   - Speech consult pending
   - Continue combivent
   - Lasix drip today for goal of 1 L neg today; BP cannot tolerate bolus
   dosing for diuresis
   - PM I/O check
   # Sepsis: Found to have serratia bacteremia on OSH culture. Possible
   sources include GU or GI. LFTs were normal apart from alk phos, so
   cholecystitis less likely.  Could also be due to pneumonia or due to
   PICC line infection (PICC has been removed).
   Sputum with GNR on [**12-10**].
   - per ID:  If decompensates, Meropenem appropriate.  Plan to continue
   cipro X4 weeks (change to PO when is absorbing), vanco for 6 weeks
   (start [**11-14**])
   - f/u culture blood, sputum
   -try to avoid IVF as now volume overloaded
   # Acute renal failure: decreased .  Likely combination of ATN and
   hypovolemia given small amount of granual casts
   - follow urine output
   -pm lytes
   - renally dose meds (vancomycin)
   - renal consult if no improvement
   -foley was changed over the weekend
   # Fever: Currently afebrile Most likely source is femoral CVL.  Pullled
   on [**12-10**].  Other possible sources of infection include pulmonary
   effusion, urinary (pt with recent bladder irrigation and GU
   manipulation).  No leukocytosis currently.
   - consider CT-guided thoracentesis if fevers continue after femoral
   line pulled or patient decompensates
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.  Now improved.
   - appreciate neurology input; stopped Phenobarbital [**12-8**] with plan to
   cont Keppra and Dilantin.
   - dilantin corrected needs to be between 6 and 8 corrected for
   albumin.  keep checking daily levels for now to see if going up (at
   rehab can check every few days)(coumadin should make it go up and was
   only started a few days ago).
   -add dilantin level onto am labs: within normal range
   # Hypercalcemia: New finding, corrected Ca [**38**].9.   PTH is in Normal
   range of 34.  Differential includes malignancy, renal failure.
   -continue to monitor to see if decreases with improving renal failure
   as it already has started to this am.
   # Hematuria and BPH:  Was described at rehab [**12-2**]  Patient was
   followed by urology during recent hospital stay and was started on
   flomax.  Continued to have some hematuria during this hospitalization,
   has 3 way foley and undergoing bladder irrigation.  Likely due to
   anticoagulation in the setting of foley placements.  Now resolved.  If
   recurrs, might consider urology consult
   - continue Foley, no bladder irrigation currently needed
   # Atrial Fibrillation and UE DVTs:  INR now 3.1, restarted home
   metoprolol.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - coumadin dose at 7.5, decrease today
s dose to 5mg
   - stop heparin gtt as now therapeutic
   # Anemia:  Hct stable, had 1U during admission of prbc.  Note that
   patient required multiple transfusions during recent hospital stay and
   he has guaiac positive stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   Per Dr. [**Last Name (STitle) **]
the tube in is not a problem, especially as it does
   let us know that his gallbladder is not the source of his sepsis (when
   he comes in the next time
.).  I think that management of the tube
   depends very much on his overall status."
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # h/o diastolic heart failure:
   - Continue gentle diuresis as above
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-12-11**] 08:16 AM 100 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2137-12-10**] 04:37 PM
   Prophylaxis:
   DVT: heparin gtt, coumadin
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to rehab likely today

2137-12-14 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tube feeds concentrated per nutrition recs
   - per neuro, dilantin dosing should be changed to 200/100/200 q8h, and
   level checked every few days.  Level should be [**6-11**] corrected for low
   albumin.
   - Increased Lasix gtt to 12mg/hr, will try to increase even more
   overnight.  Was negative at midnight, but became hypotensive when
   sleeping.  Lasix gtt shut off, given 250 cc.
   - Made neuro f/u appointment
   - Nursing worried about pacer spikes occurring on T waves, will get ECG
   tomorrow to evaluate
   -Complained of abd pain with the TF overnight, and TF held. Exam with
   soft abdomen, but some right flank/RLQ tendeness--lower than
   cholecystostomy tube site.
   -No changes made to vent settings
   Allergies:
   Amiodarone
   hyperthryoidism
   Monosodium Glutamate
   violent headach
   Last dose of Antibiotics:
   Vancomycin - [**2137-12-12**] 08:00 PM
   Ciprofloxacin - [**2137-12-13**] 10:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-12-14**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
F) at 2200
   Tcurrent: 36.3
C (97.3
   HR: 82 (60 - 82) bpm
   BP: 140/67(222) {78/35(37) - 150/134(222)} mmHg
   RR: 24 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 99.9 kg (admission): 95.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,813 mL
                                                                    268 mL
   PO:
             TF:
                                                                  1,458 mL
                                                                    228 mL
   IVF:
                                                                  1,040 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    625 mL
   Urine:
                                                                  2,410 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
                                                                    190 mL
   Balance:
                                                                    213 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 413 (348 - 678) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 8.6 L/min
   Physical Examination
   Labs / Radiology
   314 K/uL
   9.4 g/dL
   81 mg/dL
   1.8 mg/dL
   33 mEq/L
   4.2 mEq/L
   33 mg/dL
   95 mEq/L
   134 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2137-12-10**]  06:17 AM
                             [**2137-12-10**]  08:45 AM
                             [**2137-12-10**]  03:47 PM
                             [**2137-12-11**]  06:03 AM
                             [**2137-12-11**]  04:27 PM
                             [**2137-12-11**]  04:45 PM
                            [**2137-12-12**]  03:58 AM
                            [**2137-12-12**]  02:43 PM
                            [**2137-12-13**]  04:26 AM
                            [**2137-12-14**]  03:11 AM
   WBC
   6.5
   5.7
   5.7
   7.8
   6.0
   8.0
   Hct
   27.5
   28.0
   28.0
   29.8
   28.9
   27.7
   Plt
   [**Telephone/Fax (3) 11100**]
   Cr
   1.7
   1.6
   1.5
   1.8
   1.5
   1.5
   1.6
   1.8
   TCO2
   32
   Glucose
   163
   92
   111
   106
   128
   108
   81
   Other labs: PT / PTT / INR:38.4/31.1/4.0, CK / CKMB /
   Troponin-T:56//0.11, ALT / AST:23/32, Alk Phos / T Bili:122/0.5,
   Differential-Neuts:58.4 %, Lymph:29.5 %, Mono:7.2 %, Eos:4.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.1 mg/dL
   12/9,8,6 blood pending
   [**12-10**] sputum GNR on ctx
   RESPIRATORY CULTURE (Final [**2137-12-12**]):
      Commensal Respiratory Flora Absent.
      Due to mixed bacterial types ( >= 3 colony types) an abbreviated
      workup will be performed appropriate to the isolates recovered from
      this site.
      GRAM NEGATIVE ROD(S).
         MODERATE GROWTH OF TWO COLONIAL MORPHOLOGIES.
      GRAM NEGATIVE ROD #3.    SPARSE GROWTH.
   [**12-10**] right fem catheter
 no growth (final)
   Dilantin 6.2
   Vanco 28.1
   No new imaging
   Assessment and Plan
   76yo gentleman who is s/p redo replacement aortic arch with presumed
   anoxic brain injury and post-op bacteremia as well as cholecystitis s/p
   cholecystosomy admitted for sepsis, found to have serratia bacteremia.
   # Respiratory Failure:  Likely secondary to infectious process on
   admission.  Empiric therapy for HAP with Vanc/Cipro (Vanc D1 [**11-14**],
   Cipro [**12-4**]). Was on trach mask at facility occassionally.  Barriers to
   extubation currently include muscle weakness and pulmonary edema.
   - RSBI, SBT and retry trach mask daily
   - Continue combivent
   - Lasix drip today for goal of 1 L neg today, have not been diuresing
   well.  Will increase Lasix gtt and be aggressive about diuresis.  Low
   BPs may be inaccurate and will be somewhat tolerant of occasional lower
   BPs.  Will also concentrate tube feeds to decrease po intake
   # Sepsis: Found to have serratia bacteremia on OSH culture. Possible
   sources include GU or GI. LFTs were normal apart from alk phos, so
   cholecystitis less likely.  Could also be due to pneumonia or due to
   PICC line infection (PICC has been removed).
   Sputum with GNR on [**12-10**].
   - per ID:  If decompensates, Meropenem appropriate.  Plan to continue
   cipro X4 weeks (change to PO when is absorbing), vanco for 6 weeks
   (start [**11-14**])
   - f/u culture blood, sputum
   # Acute renal failure:  Likely combination of ATN and hypovolemia given
   small amount of granual casts.
   - follow urine output
   - renally dose meds (vancomycin)
   - renal consult if no improvement
   - foley was changed over the weekend
   # Abdominal pain: unclear cause, LFTs unchanged.  Possibly reaction to
   change in tube feeds?
   - speak with nutrition
   # Altered mental status and h/o Seizures and Likely Anoxic Cerebral
   Injury:  No current evidence of seizure activity but he does have a
   history of non-convulsive status epilepticus.  EEG neg for seizure so
   likely due to hypotension, possibly oversedation from anti-epileptic
   medications.  Now improved.
   - appreciate neurology input; stopped Phenobarbital [**12-8**] with plan to
   cont Keppra and Dilantin.
   - dilantin corrected needs to be between 6 and 8 corrected for
   albumin.  keep checking daily levels for now to see if going up (at
   rehab can check every few days)(coumadin should make it go up and was
   only started a few days ago).
   - has neuro f/u appointment scheduled
   # Hypercalcemia: Has resolved.   PTH is in Normal range of 34.
   Differential includes malignancy, renal failure.
   -continue to monitor
   # Hematuria and BPH:  Was described at rehab [**12-2**]  Patient was
   followed by urology during recent hospital stay and was started on
   flomax.  Continued to have some hematuria during this hospitalization,
   has 3 way foley and have stopped bladder irrigation.  Likely due to
   anticoagulation in the setting of foley placements.
   - continue Foley, no bladder irrigation currently needed
   # Atrial Fibrillation and UE DVTs:  INR now supratherapeutic.
   - consider stopping dronederone as this is not keeping him in sinus
   (emailed cardiologist)
   - coumadin dose now at 5mg
   # Anemia:  Hct stable, had 1U during admission of prbc.  Note that
   patient required multiple transfusions during recent hospital stay and
   he has guaiac positive stool as well as recent hematuria.
   - check Hct daily
   - active T&S
   - ranitidine for guaiac positive stool
   # Recent Cholecystitis:   As above this may be contributing to the
   patient's septic picture.  Abdominal exam and LFTs somewhat
   reassuring.  Gen [**Doctor First Name 458**] states perc tube in place.
   Per Dr. [**Last Name (STitle) **]
the tube in is not a problem, especially as it does
   let us know that his gallbladder is not the source of his sepsis (when
   he comes in the next time
.).  I think that management of the tube
   depends very much on his overall status."
   # S/p Aortic arch repair/dissection/CABG:  Long, complicated course
   following the procedure.  CT surgery consulted in the ED.  Recently had
   TEE that did not show vegetations on grafts or pacemaker leads, but at
   risk for endovascular seeding, particularly if blood cultures come back
   positive.
   - follow any CT [**Doctor First Name 458**] recs
   - Continue simvastatin and ASA
   # h/o diastolic heart failure:
   - Continue diuresis as above
   # Infiltrated IV site:  plastics said no compartment syndrome, appears
   stable
   -heating compresses, elevate above heart
   # Hyperlipidemia:  continue statin
   ICU Care
   Nutrition: Nutren 2.0 Full strength with Beneprotein
   Glycemic Control:
   Lines:
   Midline - [**2137-12-10**] 04:37 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely transfer to rehab today